US07138397B2
A mixture comprising 3.78 g of N-tert-butoxycarbonyl-4-benzyloxycarbonylamino-4-methoxymethylpiperidine (a compound obtained in Reference Example 6-3 (1)) and 38 ml of concentrated hydrochloric acid was refluxed for 3 days. The reaction mixture was concentrated and the residue was washed with tetrahydrofuran to obtain 2.8 g of 4-amino-4-hydroxymethylpiperidine dihydrochloride.

reactant | N-tert-butoxycarbonyl-4-benzyloxycarbonylamino-4-methoxymethylpiperidine | 3.78 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(COC)NC(=O)OCC1=CC=CC=C1 | C20H30N2O5
reactant | hydrochloric acid | 38 ml | Cl | ClH
product | 4-amino-4-hydroxymethylpiperidine dihydrochloride | 2.8 g | Cl.Cl.NC1(CCNCC1)CO | InChI=1S/C6H14N2O.2ClH/c7-6(5-9)1-3-8-4-2-6;;/h8-9H,1-5,7H2;2*1H
